US09255110B2
A solution of hydrochloric acid (1 M in Et2O, 5 mL) was added to a solution of (1-{6-[(6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester (0.22 g) in a mixture of dichloromethane and methanol (1/1, 10 mL) and the resulting mixture was stirred at room temperature overnight. The solid formed was collected by filtration, washed with ethanol and dried under reduced pressure to give 224 mg of 6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [7-(4-aminomethyl-piperidin-1-yl)-quinolin-6-yl]-amide hydrochloride as a light yellow powder. MS=418 [M+H]+; MP>300° C.

reactant | hydrochloric acid | 1 M, 5 mL | Cl | ClH
reactant | (1-{6-[(6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carbonyl)-amino]-quinolin-7-yl}-piperidin-4-ylmethyl)-carbamic acid tert-butyl ester | 0.22 g | C(C)(C)(C)OC(NCC1CCN(CC1)C1=C(C=C2C=CC=NC2=C1)NC(=O)C=1C=NN2C1N=CC(=C2)O)=O | C27H31N7O4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | pyridine water | 10 mL | N1=CC=CC=C1.O
product | 6-hydroxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [7-(4-aminomethyl-piperidin-1-yl)-quinolin-6-yl]-amide hydrochloride | 224 mg | Cl.NCC1CCN(CC1)C1=C(C=C2C=CC=NC2=C1)NC(=O)C=1C=NN2C1N=CC(=C2)O | InChI=1S/C22H23N7O2.ClH/c23-10-14-3-6-28(7-4-14)20-9-18-15(2-1-5-24-18)8-19(20)27-22(31)17-12-26-29-13-16(30)11-25-21(17)29;/h1-2,5,8-9,11-14,30H,3-4,6-7,10,23H2,(H,27,31);1H
